US07888364B2
100 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(N-methylmethylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-methylmethylsulfonamido)benzamide. MS (Q1) 450 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 100 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-chloro-4-(N-methylmethylsulfonamido)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)N(S(=O)(=O)C)C | C9H10ClNO4S
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-methylmethylsulfonamido)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)N(S(=O)(=O)C)C | C20H17Cl2N3O3S
